US09062028B2
Step A. Methyl 2-((4-nitrophenoxy)carbonylamino)acetate
To a solution of methyl 2-aminoacetate hydrochloride (0.137 g, 1.09 mmol) and DIPEA (0.52 mL, 2.98 mmol) in DCM (5 mL) at 0° C. was added a solution of 4-nitrophenyl carbonochloridate (0.20 g, 0.992 mmol) in DCM (2 mL) dropwise. The reaction mixture was slowly warmed to room temperature and stirred for 16 h. After this time, the reaction was quenched with water, and the organic layer was separated. The aqueous phase was extracted with DCM, and the combined organic layers were dried over anhydrous MgSO4, filtered, and concentrated in vacuo to provide the crude material. The crude material was purified by flash chromatography (0-50% ethyl acetate:hexanes) to afford the title compound (0.213 g, 84% yield) as a white solid. LCMS, [M+Na]+=277.1. 1H NMR (400 MHz, CDCl3) δ 8.24 (d, J=9.1 Hz, 2H), 7.32 (d, J=9.1 Hz, 2H), 5.62 (br. s, 1H), 4.07 (d, J=5.5 Hz, 2H), 3.80 (s, 3H).

reactant | methyl 2-aminoacetate hydrochloride | 1.09 mmol, 0.137 g | Cl.NCC(=O)OC
reactant | DIPEA | 2.98 mmol, 0.52 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-nitrophenyl carbonochloridate | 0.992 mmol, 0.20 g | C(OC1=CC=C(C=C1)[N+](=O)[O-])(=O)Cl | C7H4ClNO4
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | Methyl 2-((4-nitrophenoxy)carbonylamino)acetate | 0.213 g, 84% yield | [N+](=O)([O-])C1=CC=C(OC(=O)NCC(=O)OC)C=C1 | C10H10N2O6
